US08022223B2
N-(5-bromo-3-phenoxypyridin-2-yl)-4-(piperidin-4-yl)thiazol-2-amine dihydrochloride
tert-Butyl 4-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate was dissolved in 1:1 CH2Cl2:methanol and 4N HCl in dioxane was added and stirred at room temperature for 1 hour. The solvents were removed to afford the title compound. 1H NMR (d6-DMSO) δ 10.98 (bs, 1H), 8.90 (bs, 1H), 8.70 (bs, 1H), 8.23 (d, 1H), 7.45 (m, 2H), 7.40 (d, 1H), 7.22 (m, 1H), 7.12 (m, 2H), 6.76 (s, 1H), 3.31 (m, 2H), 2.98 (m, 2H), 2.89 (m, 1H), 2.10 (m, 2H), 1.79 (m, 2H). Mass spectrum (apci) m/z=431.2, 433.2 (M+H-2HCl).

reactant | tert-Butyl 4-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate | BrC=1C=C(C(=NC1)NC=1SC=C(N1)C1CCN(CC1)C(=O)OC(C)(C)C)OC1=CC=CC=C1 | C24H27BrN4O3S
reactant | methanol | CO | CH4O
reactant | HCl | 4N | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(5-bromo-3-phenoxypyridin-2-yl)-4-(piperidin-4-yl)thiazol-2-amine dihydrochloride | Cl.Cl.BrC=1C=C(C(=NC1)NC=1SC=C(N1)C1CCNCC1)OC1=CC=CC=C1 | InChI=1S/C19H19BrN4OS.2ClH/c20-14-10-17(25-15-4-2-1-3-5-15)18(22-11-14)24-19-23-16(12-26-19)13-6-8-21-9-7-13;;/h1-5,10-13,21H,6-9H2,(H,22,23,24);2*1H
